US07476663B2
(a) 2-trifluoroacetylamino-isobutyric acid
5 g (48.5 mmol) 2-amino-isobutyric acid are added batchwise to a mixture of 8.0 ml (11.85 g, 56.4 mmol) trifluoroacetic anhydride in 15.3 ml (22.6 g, 0.20 mol) TFA while cooling in the ice bath and the mixture is then stirred for 15 hours at ambient temperature. The reaction mixture is evaporated down i. vac., the residue is dissolved in diethyl ether, combined with petroleum ether and evaporated down i. vac. until turbidity is setting in. Then it is left to crystallise out, filtered and the precipitate is dried at 80° C. in the drying cupboard.

reactant | 2-amino-isobutyric acid | 48.5 mmol, 5 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | trifluoroacetic anhydride | 56.4 mmol, 8.0 ml, 11.85 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | TFA | 0.20 mol, 15.3 ml, 22.6 g | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-trifluoroacetylamino-isobutyric acid | FC(C(=O)NC(C(=O)O)(C)C)(F)F | C6H8F3NO3
